US05045552
0.16 g of m-chloroperbenzoic acid was added to a solution of 0.38 g of 2-[{3-methyl-4-(2-pyridylmethoxyethoxy)pyridine-2-yl}methylthio]-1H-benzimidazole in 20 ml of dichloromethane at -60° C. in a nitrogen atmosphere to obtain a mixture. This mixture was stirred for 0.5 hour. After the completion of the reaction, 0.16 g of triethylamine was added to the reaction mixture. The obtained mixture was heated to -10° C., followed by the addition of 30 ml of a saturated aqueous solution of sodium hydrogencarbonate. The obtained mixture was stirred at a room temperature for 0.5 hour and extracted with 50 ml of dichloromethane thrice. The extract was dried over magnesium sulfate and filtered. The filtrate was concentrated and dried in a vacuum to obtain a crude product. This crude product was crystallized from dichloromethane/diethyl ether to obtain 0.31 g of 2-[{3-methyl-4-(2-pyridylmethoxyethoxy)pyridine-2-yl}methylsulfinyl]-1H-benzimidazole as a white crystal.

reactant | m-chloroperbenzoic acid | 0.16 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-[{3-methyl-4-(2-pyridylmethoxyethoxy)pyridine-2-yl}methylthio]-1H-benzimidazole | 0.38 g | CC=1C(=NC=CC1OCCOCC1=NC=CC=C1)CSC1=NC2=C(N1)C=CC=C2 | C22H22N4O2S
reactant | triethylamine | 0.16 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-[{3-methyl-4-(2-pyridylmethoxyethoxy)pyridine-2-yl}methylsulfinyl]-1H-benzimidazole | 0.31 g | CC=1C(=NC=CC1OCCOCC1=NC=CC=C1)CS(=O)C1=NC2=C(N1)C=CC=C2 | C22H22N4O3S
